US08008295B2
5-Bromo-3-{[methyl(tetrahydro-2H-pyran-4-yl)amino]sulfonyl}-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and methylamine hydrochloride with N-methyl-N-(tetrahydro-2H-pyran-4-yl)amine hydrochloride, the title compound was obtained. Proton NMR for the product was consistent with the titled compound. ESI+ MS: 416.2 [M+H]+.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | methylamine hydrochloride | Cl.CN
reactant | N-methyl-N-(tetrahydro-2H-pyran-4-yl)amine hydrochloride | Cl.CNC1CCOCC1
product | 5-Bromo-3-{[methyl(tetrahydro-2H-pyran-4-yl)amino]sulfonyl}-1H-indole-2-carboxamide | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N(C1CCOCC1)C | C15H18BrN3O4S
